US05338639
5 ml of tetrachloromethane were added to 24.3 g (1 mol) of magnesium turnings in 50 ml of dry ethanol under nitrogen and in the absence of moisture. After the beginning of gas evolution, a solution of 177.7 g (1 mol) of tert-butyl acetoacetate in 100 ml of dry ethanol was slowly added dropwise, the reaction mixture being kept at reflux temperature. Stirring was carried out for a further 4 hours at this temperature, after which the mixture was cooled. 78.5 g (1 mol) of benzoyl chloride was slowly added dropwise at 10° C. Stirring was continued for a further 4 hours at room temperature and hydrolysis was then effected with a mixture of 450 ml of ice water and 25 ml of concentrated sulfuric acid. The organic phase was separated off, dried, and evaporated down under reduced pressure. 192.3 g of >96% pure tert-butyl 2-benzoylacetoacetate were obtained.

reactant | magnesium | 1 mol, 24.3 g | [Mg] | Mg
reactant | tert-butyl acetoacetate | 1 mol, 177.7 g | C(CC(=O)C)(=O)OC(C)(C)C | C8H14O3
reactant | benzoyl chloride | 1 mol, 78.5 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | sulfuric acid | 25 ml | S(O)(O)(=O)=O | H2O4S
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | tetrachloromethane | 5 ml | ClC(Cl)(Cl)Cl | CCl4
product | tert-butyl 2-benzoylacetoacetate | 192.3 g, >96% | C(C1=CC=CC=C1)(=O)C(C(=O)OC(C)(C)C)C(=O)C | C15H18O4
